US08710245B2
(a) Synthesis of ethyl 2-(2,5-dimethylthiophen-3-yl)-2-oxoacetate
To a solution of AlCl3 (29.5 g, 221 mmol) in CH2Cl2 (150 mL) was added 2,5-dimethyl thiophene (6.2 g, 55 mmol) followed by ethyl 2-chloro-2-oxoacetate (15.1 g, 110 mmol). The resulting mixture was stirred at room temperature for 12 h at which time the reaction mixture was filtered, diluted carefully with H2O and extracted with EtOAc. Removal of volatiles afforded mostly pure crude material, which was used in the next step without further purification.

reactant | AlCl3 | 221 mmol, 29.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,5-dimethyl thiophene | 55 mmol, 6.2 g | CC=1SC(=CC1)C | C6H8S
reactant | ethyl 2-chloro-2-oxoacetate | 110 mmol, 15.1 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2,5-dimethylthiophen-3-yl)-2-oxoacetate | CC=1SC(=CC1C(C(=O)OCC)=O)C | C10H12O3S
